US06777421B2
8-(2-(2-Biphenyloxy)ethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one
1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one (0.250 g, 1.08 mmol), 2-chloroacetaldehyde (45% solution in water, 0.283 mg, 1.62 mmol) and sodium cyanoborohydride (0.103 g, 1.62 mmol) were combined in methanol (5 mL). The reaction mixture was stirred at room temperature overnight. The reaction mixture was then concentrated and the residue purified by column chromatography (5% methanol in dichloromethane). A portion of the resulting product (0.025 g, 0.085 mmol) was dissolved in dry dimethylformamide (1 mL). 2-Hydroxybiphenyl (0.029 g, 0.170 mmol) and potassium carbonate (0.059 g, 0.425 mmol) were then added. The reaction mixture was stirred at room temperature overnight, diluted with water (5 mL), and then extracted with dichloromethane (3×5 mL). The combined extracts were concentrated and the residue was purified by preparative thin layer chromatography (5% methanol in dichloromethane) to yield the title product as a white amorphous solid.

reactant | 1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 1.08 mmol, 0.250 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | 2-chloroacetaldehyde | 1.62 mmol, 0.283 mg | ClCC=O | C2H3ClO
reactant | sodium cyanoborohydride | 1.62 mmol, 0.103 g | C(#N)[BH3-].[Na+]
reactant | 2-Hydroxybiphenyl | 0.170 mmol, 0.029 g | OC1=C(C=CC=C1)C1=CC=CC=C1 | C12H10O
reactant | potassium carbonate | 0.425 mmol, 0.059 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 mL | CO | CH4O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
product | 8-(2-(2-Biphenyloxy)ethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C=1(C(=CC=CC1)OCCN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)C1=CC=CC=C1 | C27H29N3O2
